US05789412
13A: 3-(4-methylpiperazin-1-yl)phenol
3-Aminophenol (2 g, 18 mmol) is brought to the reflux point of 1-butanol (30 ml) in the presence of 2-chloro-N-(chloroethyl)-N-methylethanamine hydrochloride (3.5 g, 18 mmol) and sodium carbonate (95 mg, 9 mmol). After 48 h, the reaction mixture is concentrated and adsorbed on silica and then purified by flash chromatography with a mixture (90/10) of dichloromethane/methanol.

reactant | 3-Aminophenol | 18 mmol, 2 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-chloro-N-(chloroethyl)-N-methylethanamine hydrochloride | 18 mmol, 3.5 g | Cl.ClCCN(C)CCCl
reactant | sodium carbonate | 9 mmol, 95 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 30 ml | C(CCC)O | C4H10O
product | 3-(4-methylpiperazin-1-yl)phenol | CN1CCN(CC1)C=1C=C(C=CC1)O | C11H16N2O
